US05371063
Methane sulphonyl chloride (7.0 g) was added to a stirred, cooled mixture of methyl 4-chlorosalicylate (10.0 g) and triethylamine (8.0 g) in dichloromethane while maintaining the temperature at 0° C. The mixture was then stirred at room temperature for one-half hour and left to stand overnight. The mixture was washed with hydrochloric acid (2M), saturated aqueous sodium bicarbonate solution, water, dried (Na2SO4) and filtered. The filtrate was evaporated to dryness to give methyl 4-chloro-2-(methylsulphonyloxy)benzoate (11.7 g) as an orange solid m.p. 82.5°-84.5° C.

reactant | Methane sulphonyl chloride | 7.0 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methyl 4-chlorosalicylate | 10.0 g | ClC=1C=C(C(C(=O)OC)=CC1)O | C8H7ClO3
reactant | triethylamine | 8.0 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 4-chloro-2-(methylsulphonyloxy)benzoate | 11.7 g | ClC1=CC(=C(C(=O)OC)C=C1)OS(=O)(=O)C | C9H9ClO5S
